US09376436B2
A solution of 4-(5-ethoxy-2-fluoro-phenyl)pyridine-2-carbonitrile (which may be prepared as described in Description 111) (6.19 g, 25.55 mmol) in DCM (200 mL) was treated with mCPBA (7.56 g, 30.66 mmol) and then was reluxed under nitrogen for 3 days. The mixture was diluted with 5% sodium metabisulfite (100 ml) and DCM (200 ml) and shaken vigourously. The organic layer was then washed with sat NaHCO3 solution (200 ml) and then dried (Na2SO4) and concentrated. Purification by flash chromatography gave 4-(5-ethoxy-2-fluoro-phenyl)-1-oxido-pyridin-1-ium-2-carbonitrile (D112) (5.102 g);

reactant | 4-(5-ethoxy-2-fluoro-phenyl)pyridine-2-carbonitrile | 25.55 mmol, 6.19 g | C(C)OC=1C=CC(=C(C1)C1=CC(=NC=C1)C#N)F | C14H11FN2O
reactant | mCPBA | 30.66 mmol, 7.56 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
solvent | sodium metabisulfite | 100 ml | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | DCM | 200 ml | C(Cl)Cl | CH2Cl2
product | 4-(5-ethoxy-2-fluoro-phenyl)-1-oxido-pyridin-1-ium-2-carbonitrile | 5.102 g | C(C)OC=1C=CC(=C(C1)C1=CC(=[N+](C=C1)[O-])C#N)F | C14H11FN2O2
